US04801584
To a stirred solution of ethyl 6,7-difluoro-4,8-dihydroxy-3-quinolinecarboxylate (300 mg) in dry dimethylformamide (6 ml), was added anhydrous potassium carbonate (308 mg) and then benzyl chloride (145 μl). The mixture was stirred at 55°-65° C. for 11 hours. The reaction mixture was diluted with water (30 ml) and extracted with chloroform. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was chromatographed on silica gel (7 g) using acetone/chloroform (1:20) as an eluent to give 113 mg of ethyl 8-benzyloxy-6,7-difluoro-4-hydroxy-3-quinolinecarboxylate, mp 200°-201° C.; MS m/z 359 (M+), after recrystallization from methanol.

reactant | ethyl 6,7-difluoro-4,8-dihydroxy-3-quinolinecarboxylate | 300 mg | FC=1C=C2C(=C(C=NC2=C(C1F)O)C(=O)OCC)O | C12H9F2NO4
reactant | potassium carbonate | 308 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 145 μl | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | ethyl 8-benzyloxy-6,7-difluoro-4-hydroxy-3-quinolinecarboxylate | 113 mg | C(C1=CC=CC=C1)OC=1C(=C(C=C2C(=C(C=NC12)C(=O)OCC)O)F)F | C19H15F2NO4
